US07368578B2
To a mixture of {3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}methanol (0.30 g) and N,N-dimethylformamide (5 mL) was added sodium hydride (60% in oil, 0.030 g) at 0° C. After stirring the reaction mixture at 0° C. for 30 min, methyl iodide (0.11 g) was added to the reaction mixture, and the mixture was further stirred at room temperature for 3 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 2-(2-furyl)-4-{[2-methoxy-4-({[4-(methoxymethyl)-1-phenyl-1H-pyrazol-3-yl]oxy}methyl)phenoxy]methyl}-5-methyl-1,3-oxazole as colorless crystals (0.20 g, yield 65%) from a fraction eluted with ethyl acetate-hexane (1:2, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 121-122° C.

reactant | {3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}methanol | 0.30 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2CO)C2=CC=CC=C2)C=C1)OC)C | C27H25N3O6
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.030 g | [H-].[Na+]
reactant | methyl iodide | 0.11 g | CI | CH3I
solvent | water | O | H2O
product | 2-(2-furyl)-4-{[2-methoxy-4-({[4-(methoxymethyl)-1-phenyl-1H-pyrazol-3-yl]oxy}methyl)phenoxy]methyl}-5-methyl-1,3-oxazole | 0.20 g, yield 65% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)COC1=NN(C=C1COC)C1=CC=CC=C1)OC)C | C28H27N3O6
